US06355799B1
Preparation of N-[4-chloro-2-(2-naphthoylamino)phenyl]phthalimide (Compound no. 13-5)
A reaction solution of N-(2-amino-4-chlorophenyl)phthalimide (0.5 g), triethylamine (0.28 g) and 2-naphthoyl chloride (0.35 g) in anhydrous tetrahydrofuran (50 ml) was heated at reflux temperature for 6 hr under nitrogen atmosphere. The resulting mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine (×2) and dried over anhydrous sodium sulfate. The solvent was removed and the residue was purified by column chromatography on silica gel using ethyl acetate-hexane (1:5) to give the title compound (0.35 g) as a yellow solid.

reactant | N-(2-amino-4-chlorophenyl)phthalimide | 0.5 g | NC1=C(C=CC(=C1)Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9ClN2O2
reactant | triethylamine | 0.28 g | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 0.35 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[4-chloro-2-(2-naphthoylamino)phenyl]phthalimide | 0.35 g | ClC1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)NC(=O)C2=CC1=CC=CC=C1C=C2 | C25H15ClN2O3
